US07592358B2
IP 15b. 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidin-4-ol
The product was obtained analogously to Example 1.1g (3 hours at 70° C., potassium carbonate as base) from 4.79 g (14.0 mmol) of 2-(4-iodophenoxy)ethyl methanesulfonate and 1.94 g (16.8 mmol) of 4-methylpiperidin-4-ol. Yield: 3.40 g (67% of theoretical); C14H20INO2 (M=361.219); calc.: molpeak (M+H)+: 362; found: molpeak (M+H)+: 362; Rf value: 0.20 (silica gel, DCM/MeOH 9:1).

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-iodophenoxy)ethyl methanesulfonate | 14.0 mmol, 4.79 g | CS(=O)(=O)OCCOC1=CC=C(C=C1)I | C9H11IO4S
reactant | 4-methylpiperidin-4-ol | 16.8 mmol, 1.94 g | CC1(CCNCC1)O | C6H13NO
solvent | DCM MeOH | C(Cl)Cl.CO
product | 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidin-4-ol | IC1=CC=C(OCCN2CCC(CC2)(O)C)C=C1 | C14H20INO2
